US08389511B2
Methyl 2-(5-bromo-2-fluorophenyl)-2-methyl-3-oxo-7-(trifluoromethyl)-3,4-dihydro-2H-1,4-benzoxazine-6-carboxylate
Using methyl 2-(5-bromo-2-fluorophenyl)-2-hydroxypropanoate and methyl 4-fluoro-5-nitro-2-(trifluoromethyl)benzoate, the title compound was obtained in a similar manner to Reference Example 22 and Reference Example 2.

reactant | methyl 2-(5-bromo-2-fluorophenyl)-2-hydroxypropanoate | BrC=1C=CC(=C(C1)C(C(=O)OC)(C)O)F | C10H10BrFO3
reactant | methyl 4-fluoro-5-nitro-2-(trifluoromethyl)benzoate | FC1=CC(=C(C(=O)OC)C=C1[N+](=O)[O-])C(F)(F)F | C9H5F4NO4
product | Methyl 2-(5-bromo-2-fluorophenyl)-2-methyl-3-oxo-7-(trifluoromethyl)-3,4-dihydro-2H-1,4-benzoxazine-6-carboxylate | BrC=1C=CC(=C(C1)C1(OC2=C(NC1=O)C=C(C(=C2)C(F)(F)F)C(=O)OC)C)F | C18H12BrF4NO4
